US04186135
200 ml of chloroform and 50 g of 1-benzyl-4-amino piperidine were introduced into a balloon flask provided with an agitator and a thermometer, and then 50 g of 1,4-benzodioxane-5-carbonyl chloride was added in portions at a temperature of from 5°-10° C. After agitation of the mixture at ambient temperature the solvent was removed under vacuum and the residue was dissolved in 300 ml of water. After precipitation of the base by addition of ammonia, the water was removed and the resulting product was treated with a solution of hydrochloric acid. 75 g of N-(1-benzyl-4-piperidyl)-1,4-benzodioxane-5-carboxamide hydrochloride was produced (M.P.: 205° C.; yield: 77%).

reactant | 1-benzyl-4-amino piperidine | 50 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | 1,4-benzodioxane-5-carbonyl chloride | 50 g | O1CCOC2=C1C=CC=C2C(=O)Cl | C9H7ClO3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-benzyl-4-piperidyl)-1,4-benzodioxane-5-carboxamide hydrochloride | 75 g, yield: 77% | Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)C1=CC=CC=2OCCOC21 | InChI=1S/C21H24N2O3.ClH/c24-21(18-7-4-8-19-20(18)26-14-13-25-19)22-17-9-11-23(12-10-17)15-16-5-2-1-3-6-16;/h1-8,17H,9-15H2,(H,22,24);1H
